US04698337
7-Amino-3-(1H-1,2,3-triazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (1.7 g.) and 2-(2-formamidothiazol-4-yl)-2-(2-tert-butoxycarbonylaminoethoxyimino)acetic acid (syn isomer, 2 g.) were treated in a similar manner to that of Example 20-(1) to give 7-[2-(2-formamidothiazol-4-yl)-2-(2-tert-butoxycarbonylaminoethoxyimino)acetamido]-3-(1H-1,2,3-triazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 2.4 g.).

reactant | 7-Amino-3-(1H-1,2,3-triazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.7 g | NC1[C@@H]2N(C(=C(CS2)CSC2=CN=NN2)C(=O)O)C1=O | C10H11N5O3S2
reactant | 2-(2-formamidothiazol-4-yl)-2-(2-tert-butoxycarbonylaminoethoxyimino)acetic acid | 2 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=NOCCNC(=O)OC(C)(C)C | C13H18N4O6S
product | 7-[2-(2-formamidothiazol-4-yl)-2-(2-tert-butoxycarbonylaminoethoxyimino)acetamido]-3-(1H-1,2,3-triazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 2.4 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=CN=NN2)C(=O)O)C1=O)=NOCCNC(=O)OC(C)(C)C | C23H27N9O8S3
